*******************************************************
** NEURON TESTBENCH – BASELINE + WORST-CASE + SHORT PULSE
** Signed encoding: -1=11, 0=00, +1=01, never use 10
*******************************************************

.GLOBAL vss! vdd!
.TEMP 25.0
.OPTION
+    PROBE
+    CSHUNT=1e-18
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
+    HIER_DELIM=0
.options NUMDGT=8 measdgt=5 GMINDC=1e-18 DELMAX=1n method=gear INGOLD=2 POST=1

*******************************************************
** Include ASAP7 PDK models
*******************************************************
.INCLUDE "/cae/apps/data/asap7PDK-2022/asap7PDK_r1p7/models/hspice/7nm_TT_160803.pm"

*******************************************************
** Include NEURON netlist (the file you pasted)
*******************************************************
.INCLUDE "NEURON.pex.netlist"


*******************************************************
** Power supplies
*******************************************************
VDD vdd! 0 0.9v
VSS vss! 0 0v

*******************************************************
** Fixed signed weights for this neuron:
**   w00 = -1 = 2'b11
**   w10 = +1 = 2'b01
**   w20 = -1 = 3'b111
*******************************************************

Vw00_0 w00<0> 0 0.9v     ** LSB of w00 = 1
Vw00_1 w00<1> 0 0.9v     ** MSB of w00 = 1 → -1

Vw10_0 w10<0> 0 0.9v     ** LSB of w10 = 1
Vw10_1 w10<1> 0 0v       ** MSB of w10 = 0 → +1

Vw20_0 w20<0> 0 0.9v     ** 111 = -1
Vw20_1 w20<1> 0 0.9v
Vw20_2 w20<2> 0 0.9v

*******************************************************
** INPUT STIMULI FOR NEURON
** Signed encoding: -1=11, 0=00, +1=01, never use 10
**
** BASELINE (0–9 ns): all valid (x0,x1) combinations
**  S0: 0–1ns   : x0=00, x1=00
**  S1: 1–2ns   : x0=00, x1=01
**  S2: 2–3ns   : x0=00, x1=11
**  S3: 3–4ns   : x0=01, x1=00
**  S4: 4–5ns   : x0=01, x1=01
**  S5: 5–6ns   : x0=01, x1=11
**  S6: 6–7ns   : x0=11, x1=00
**  S7: 7–8ns   : x0=11, x1=01  (z<0> should be HIGH)
**  S8: 8–9ns   : x0=11, x1=11
**
** WORST-CASE SIMULTANEOUS TRANSITIONS (9–12 ns):
**  S9:  9–10ns : x0=00, x1=11  (low)
**  S10: 10–11ns: x0=11, x1=01  (all bits toggle together, z HIGH)
**  S11: 11–12ns: x0=01, x1=00  (all bits toggle together, z LOW)
**
** SHORT PULSE (<1 ns) (12–13 ns):
**  S12: 12–12.5ns : x0=11, x1=11  (low)
**  S13: 12.5–12.7ns: x0=11, x1=01 (short high pulse)
**  S14: 12.7–13ns : x0=11, x1=11  (back low)
**
** Edges: each change uses 25 ps transitions:
**   t, oldV,  t+0.025ns, newV
*******************************************************

***************
** x0<1> – MSB of x0
** Sequence of x0<1> by state:
**  S0–S5: 0
**  S6–S8: 1
**  S9:    0
**  S10:   1
**  S11:   0
**  S12–S14:1
***************
* Changes at t = 6ns (0→1), 9ns (1→0), 10ns (0→1), 11ns (1→0), 12ns (0→1)
Vx0_1 x0<1> 0 pwl
+ 0ns 0v
+ 6ns 0v      6.025ns 0.9v
+ 9ns 0.9v    9.025ns 0v
+ 10ns 0v     10.025ns 0.9v
+ 11ns 0.9v   11.025ns 0v
+ 12ns 0v     12.025ns 0.9v
+ 13ns 0.9v

***************
** x0<0> – LSB of x0
** Sequence of x0<0> by state:
**  S0–S2: 0
**  S3–S8: 1
**  S9:    0
**  S10–S14:1
***************
* Changes at t = 3ns (0→1), 9ns (1→0), 10ns (0→1)
Vx0_0 x0<0> 0 pwl
+ 0ns 0v
+ 3ns 0v      3.025ns 0.9v
+ 9ns 0.9v    9.025ns 0v
+ 10ns 0v     10.025ns 0.9v
+ 13ns 0.9v

***************
** x1<1> – MSB of x1
** Sequence of x1<1> by state:
**  S0–S1: 0
**  S2:    1
**  S3–S4: 0
**  S5:    1
**  S6–S7: 0
**  S8–S9: 1
**  S10–S11:0
**  S12:   1
**  S13:   0
**  S14:   1
***************
* Changes at t = 2ns (0→1), 3ns (1→0), 5ns (0→1), 6ns (1→0),
* 8ns (0→1), 10ns (1→0), 12ns (0→1), 12.5ns (1→0), 12.7ns (0→1)
Vx1_1 x1<1> 0 pwl
+ 0ns 0v
+ 2ns 0v      2.025ns 0.9v
+ 3ns 0.9v    3.025ns 0v
+ 5ns 0v      5.025ns 0.9v
+ 6ns 0.9v    6.025ns 0v
+ 8ns 0v      8.025ns 0.9v
+ 10ns 0.9v   10.025ns 0v
+ 12ns 0v     12.025ns 0.9v
+ 12.5ns 0.9v 12.525ns 0v
+ 12.7ns 0v   12.725ns 0.9v
+ 13ns 0.9v

***************
** x1<0> – LSB of x1
** Sequence of x1<0> by state:
**  S0:    0
**  S1–S2: 1
**  S3:    0
**  S4–S5: 1
**  S6:    0
**  S7–S10:1
**  S11:   0
**  S12–S14:1
***************
* Changes at t = 1ns (0→1), 3ns (1→0), 4ns (0→1),
* 6ns (1→0), 7ns (0→1), 11ns (1→0), 12ns (0→1)
Vx1_0 x1<0> 0 pwl
+ 0ns 0v
+ 1ns 0v      1.025ns 0.9v
+ 3ns 0.9v    3.025ns 0v
+ 4ns 0v      4.025ns 0.9v
+ 6ns 0.9v    6.025ns 0v
+ 7ns 0v      7.025ns 0.9v
+ 11ns 0.9v   11.025ns 0v
+ 12ns 0v     12.025ns 0.9v
+ 13ns 0.9v

*******************************************************
** Instantiate NEURON DUT
** Port order from NEURON.pex.netlist:
**   VSS W10<1> VDD X1<1> W00<1> W10<0> X0<1> X1<0> W00<0> X0<0>
**   W20<1> W20<0> W20<2> Z<2> Z<1> Z<0>
*******************************************************
XDUT vss! w10<1> vdd! x1<1> w00<1> w10<0> x0<1> x1<0> w00<0> x0<0>
+ w20<1> w20<0> w20<2> z<2> z<1> z<0> NEURON

.OP

*******************************************************
** Transient analysis
**  - 0–9ns   : baseline (all valid combos)
**  - 9–12ns  : worst-case simultaneous transitions
**  - 12–13ns : short high pulse then low
*******************************************************
.TRAN 10p 13n

*******************************************************
** Probe signals: inputs, outputs, power
*******************************************************
.PROBE TRAN v(x0<0>) v(x0<1>) v(x1<0>) v(x1<1>)
.PROBE TRAN v(w00<0>) v(w00<1>) v(w10<0>) v(w10<1>)
.PROBE TRAN v(w20<0>) v(w20<1>) v(w20<2>)
.PROBE TRAN v(z<0>) v(z<1>) v(z<2>)
.PROBE TRAN v(vdd!) v(vss!)

.END

